US07557213B2
0.667 mL (3.75 mmol, 50% solution in ethyl acetate) of 1-propanephosphonic anhydride solution was added to 0.400 g (1.07 mmol) of 1-(6-Bromo-pyridin-2-ylmethyl)-7-methyl-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid, 0.208 g (2.13 mmol) of N,O-dimethylhydroxyl amine, and 0.653 mL (3.75 mmol) of diisopropylethylamine dissolved in 1 mL of dichloromethane. After the reaction was stirred at room temperature for 1 hour water was added and was extracted with dichloromethane (3×25 mL). The combined organic layers were dried over magnesium sulfate, filtered and concentrated in vacuo. The crude product was purified on silica gel eluting with 100% ethyl acetate to yield 0.355 g of 1-(6-Bromo-pyridin-2-ylmethyl)-7-methyl-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid methoxy-methyl-amide as a white solid.

reactant | 1-(6-Bromo-pyridin-2-ylmethyl)-7-methyl-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid | 1.07 mmol, 0.400 g | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=C(N=C12)C)=O)C(=O)O | C16H12BrN3O3
reactant | N,O-dimethylhydroxyl amine | 2.13 mmol, 0.208 g | CNOC | C2H7NO
reactant | diisopropylethylamine | 3.75 mmol, 0.653 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | O | H2O
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 1-(6-Bromo-pyridin-2-ylmethyl)-7-methyl-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid methoxy-methyl-amide | 0.355 g | CON(C(=O)C1=CN(C2=NC(=CC=C2C1=O)C)CC1=NC(=CC=C1)Br)C | C18H17BrN4O3
